US04855086
A solution of triphenylphosphine (33.8 g, 129 mmol) and t-butyl bromoacetate (25 g, 128.2 mmol) in dry benzene (150 ml) was stirred for 16 hours at room temperature. The precipitated product was collected by filtration, washed with dry ether and dried in vaco to give 56 g (96% of theory) of carbo-t-butoxymethyl triphenylphosphonium bromide.

reactant | triphenylphosphine | 129 mmol, 33.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | t-butyl bromoacetate | 128.2 mmol, 25 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | carbo-t-butoxymethyl triphenylphosphonium bromide | 56 g, 96% | [Br-].C(=O)(OC(C)(C)C)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C24H26O2P.BrH/c1-24(2,3)26-23(25)19-27(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;/h4-18H,19H2,1-3H3;1H/q+1;/p-1
